Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ who presented to the ED on ___ after being 
found down by her sister. At the time she was evaluated by 
neurosurgery in the ED, she did not remember the fall, and 
unknown LOC. 

Per chart review and speaking with her niece, patient is fairly 
independent at baseline. The morning of the fall, she woke up, 
went to appointments, went shopping and came home to take a nap. 
At this point, her sister who lives with her heard a thud on the 
ground and went to her room to find her lying on the ground on 
her left side, unable to get up. Per her sister, she did not 
seem disoriented. At the time of original neurosurgery 
evaluation patient was alert, awake and oriented to person, knew 
she was in the hospital but could not identify the month and 
year. She denied HA, weakness, numbness, vision changes, N/V.

On exam, vitals were stable with a GCS 14, and no evidence of 
focal neurological deficits. CT w/o contrast in the ED showed 
multiple small foci of IVH without any mass effect, in addition 
to a left facial laceration without underlying fracture. The 
patient was admitted to neurosurgery for close evaluation and 
serial neuro checks.
 
Past Medical History:
HTN
HLD
Osteoarthritis
Osteopenia
Nephrolithiasis
PVCs
Vit D Deficiency
SAH
Gout
s/p cervical fusion ___ years ago)
s/p hysterectomy

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  T 98.9, BP 124/64, HR 74, RR 17, SaO2 99% RA
GENERAL: NAD, alert and awake
HEENT: Surgical pupils R minimally reactive>L reactive pupil, 
stable per nursing, 3cm laceration over left temple with 
surrounding ecchymosis, anicteric sclera, pink conjunctiva, MMM, 
intact dentition  
NECK: nontender supple neck, no LAD, no carotid bruit  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: alert to self, ___," and ___ unable 
to guess the year, but when given options chooses ___ 
bilateral strength in grip, in elbow extension/flexion, hip 
flexion, follows commands
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM:

General: alert, awake, NAD
HEENT: MMM, EOMI, surgical pupils R>L, laceration with 
ecchymosis over left temple
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably  
Abdomen: soft, nontender, nondistended, no HSM appreciated  
GU: deferred  
Ext: warm and well perfused, pulses, no edema  
Neuro: NEURO: alert to self, ___," and ___ bilateral strength in grip, in elbow 
extension/flexion, hip flexion, follows commands

 
Pertinent Results:
ADMISSION LABS:
___ 04:56PM BLOOD WBC-7.0 RBC-4.22 Hgb-12.6 Hct-39.9 MCV-95 
MCH-29.9 MCHC-31.6* RDW-13.2 RDWSD-45.1 Plt ___
___ 04:56PM BLOOD Neuts-84.4* Lymphs-7.0* Monos-6.7 Eos-1.3 
Baso-0.3 Im ___ AbsNeut-5.89 AbsLymp-0.49* AbsMono-0.47 
AbsEos-0.09 AbsBaso-0.02
___ 04:56PM BLOOD ___ PTT-29.3 ___
___ 04:56PM BLOOD Plt ___
___ 04:56PM BLOOD Glucose-148* UreaN-27* Creat-1.0 Na-139 
K-4.1 Cl-98 HCO3-25 AnGap-20
___ 05:35PM BLOOD Lactate-1.9

DISCHARGE LABS:
___ 06:20AM BLOOD WBC-5.4 RBC-4.00 Hgb-12.1 Hct-38.7 MCV-97 
MCH-30.3 MCHC-31.3* RDW-13.5 RDWSD-47.9* Plt ___
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD ___ PTT-27.8 ___
___ 07:22AM BLOOD Glucose-97 UreaN-17 Creat-0.8 Na-141 
K-3.8 Cl-104 HCO3-25 AnGap-16
___ 06:20AM BLOOD Albumin-3.5 Calcium-9.1 Phos-2.9 Mg-2.1
___ 09:40AM BLOOD VitB12-444 Folate->20

STUDIES:
EKG in ED- Sinus rhythm, prolonged PR interval (222), QRS 
interval (129ms) 

CT Head w/o Contrast ___:
1. Expected redistribution of multi focal intraventricular 
hemorrhage. 
2. Redistribution of left subdural hematoma, now overlying 
posterior parietal lobe. 
3. Slight interval increase of right frontal low density 
subdural fluid collection, which likely represents a subdural 
hygroma. 
4. No evidence of new hemorrhage, hydrocephalus or mass effect. 

MR ___ ___: 
1. Multiple anterior wedge compression deformities of the 
thoracic spine spanning T4 through T7 and at T10 are chronic in 
nature. 
2. Loss of vertebral body height is most prominent at T10 where 
there is greater than 90% loss of vertebral body height and 4 mm 
retropulsion of the inferior endplate fragment.  This results in 
mild spinal canal narrowing with remodeling of the cord, 
although there is no definitive underlying cord signal change.  
Moderate bilateral T10-T11 neural foraminal narrowing. 
3. Additional findings as described above, including prominent 
descending thoracic aorta measuring up to 5.2 cm, with diffuse 
atherosclerotic disease. 

CT Head w/o Contrast ___:
1. Multiple small foci of intraventricular hemorrhage without 
appreciable mass effect. 
2. Small 2 mm in width acute left subdural hematoma overlying 
the left frontal parietal region. 
3. Laceration overlying the left zygoma without underlying 
fracture. 
4. Severe age related global atrophic changes and evidence of 
chronic small vessel ischemic disease. 

CT C-Spine ___:
1.  No evidence for acute fracture or traumatic subluxation. 
2.  Chronic dens fracture involving C2. 
3.  Severe multilevel degenerative changes of the visualized 
cervical spine. 
4.  Status post orthopedic cervical spinal fusion without 
evidence of hardware related failure. 

CT ___ ___: 
1.  Multiple, moderate-severe vertebral body compression 
deformities 
throughout the thoracolumbar spine, as described above.  Age 
indeterminate, no prior for comparison.  ___ be old but acute 
component not excluded.  No evidence of critical spinal stenosis 
or subluxation by CT. 
2.  Extensive multilevel degenerative changes throughout the 
visualized lower cervical, thoracic, and upper lumbar spine. 
3.  Severe atherosclerotic calcifications throughout the 
visualized aorta, with thoracic and abdominal aortic aneurysms 
measuring up to 5.5 cm in the distal descending thoracic aorta, 
4.6 cm infrarenal abdominal, partially imaged and not fully 
assessed. 

CXR ___: Aorta is calcified and unfolded; dilatation of 
the descending aorta is partially imaged on thoracic spine CT ; 
no prior available for comparison. Moderate to severe 
compression of at least 2 thoracic vertebral bodies and moderate 
compression of 2 additional thoracic vertebral bodies are of 
indeterminate age, given lack of priors for comparison.  
Correlate clinically for acuity and need for additional imaging. 
Minimal left mid to lower lung linear atelectasis/scarring.  No 
focal consolidation, pleural effusion, or pneumothorax. 

 
Brief Hospital Course:
___ with history of osteopenia, HTN and multiple falls who 
presented s/p unwitnessed fall in her bedroom found to have IVH 
& SDH.

NEUROSURGERY ___
On initial exam in the ED, vitals were stable with a GCS 14, and 
no evidence of focal neurological deficits. CT w/o contrast in 
the ED showed multiple small foci of IVH without any mass 
effect, in addition to a left facial laceration without 
underlying fracture. The patient was admitted to neurosurgery 
for close evaluation and serial neuro checks. Repeat CT head 
stable and no need for neurosurgical intervention. Further 
imaging showed multiple compressions fractures of the thoracic 
spine, believed to be unrelated to her current fall.

MEDICINE ___
Decision was made to transfer to medicine for further 
management. Upon first talking to the patient, she said she felt 
great but does not remember the fall. 

# Unwitnessed falls, history of recurrent falls: Patient has a 
history of multiple falls of unknown origin. PCP note in ___ says that patient has been falling out of bed a few times a 
year. She ambulates with a walker when not at home, although 
is not dependent on it within the home. Detailed history limited 
by patient's lack of memory of the event which was unwitnessed. 
Patient transferred to medicine for further evaluation of 
etiology of her fall. Differential included syncope vs 
mechanical fall with amnesia of event due to head strike (___, 
IVH). She was monitored on tele for 48 hours without evidence of 
arrhythmia. EKG without e/o ischemia and trops negative. She had 
no murmur on exam to suggest structural 
cause of syncope leading to fall. Orthostatics on medicine 
service were negative though performed several days after 
presentation. She was reportedly not post-ictal immediately 
after fall making seizure less likely. Given stable MS with 
normal WBC count and CXR, infection felt to be unlikely cause of 
fall. ___ evaluated for safety and recommended home with ___. 
___ was set up for patient but upon discharge family decided 
that they did not need ___ despite recommendations and felt 
comfortable taking care of the patient at home. Emphasized need 
for close care, fall precautions, medication management, and 
observation with PO and nectar thickened liquids. Family 
verbalized understanding and declined ___.

# IVH/SDH: Patient presented with a intraventricular hemorrhage 
and subdural hematoma, etiology most likely traumatic, visible 
on head CT, improved on repeat scan. She originally was more 
confused than baseline, although upon transfer to medicine, she 
was alert and awake and back to her baseline according to 
family. Neurosurgery was following, and recommended maintaining 
SBPs <150 to prevent further intracranial bleeding. Follow-up as 
needed with neurosurgery, if change in mental status. Otherwise, 
no neurosurgical follow-up required.

# Osteopenia/Compression fractures: There are severe compression 
deformities involving the T7, T10, and L3 vertebral bodies. 
Moderate compression deformities with approximately 50% loss of 
height are noted involving the T4, T6, and and L1 vertebral 
bodies. Last bone scan ___, T score 2.0, started on 
Alendronate at that time. Given chronicity of fractures and 
underlying osteopenia, continued home doses of Calcium Carbonate 
600mg BID and Alendronate 70mg QMON.

# Nutrition: Family is concerned that she is not eating very 
much, and understand that this may contribute to her 
dehydration. Per her sister, she reluctantly drinks ensure with 
breakfast & dinner. Albumin levels checked and within normal 
limits. Nutrition was consulted during this admission and 
recommended trying ensure pudding instead of the ensure drinks. 
Daily multivitamin with minerals started due to poor PO intake. 
Also, sister instructed to record weights 3x/week to help with 
long term evaluation.

#Dysphagia: Mrs. ___ niece was also concerned that she seems 
to have difficulty swallowing. She was evaluated by speech & 
swallow at the bedside, and was recommended for PO diet with 
nectar thickened liquids due to difficulty with thin liquids. 
Also scheduled for a video swallow eval as an outpatient next 
week and will revisit recs after VFSS.

# Dementia: Patient is forgetful and disoriented at baseline, 
with difficulty remember events or finding words. Often unclear 
about the time of day. Sleep cycle is disturbed at baseline. 
This may be contributing to her frequent falls. B12/folate were 
measured and normal to rule an organic cause of 
neurodegeneration. No acute interventions were made during this 
admission, although we are suggesting patient follow-up with 
formal cognitive evaluation. Also, continue to promote 
sleep/wake cycles as much as possible.

# HTN: Well controlled. Continue on home doses of Atenolol 50mg 
BID and Amlodipine 10mg QD.

# HLD: Last values ___: Total Chol 193, HDL 55, LDL 97, Trig 
207. Continued on home dose of Pravastatin 40mg QPM. 

# Gout: No acute pain. Continued on home dose of allopurinol 
___ QD.

==========================
TRANSITIONAL ISSUES
==========================
[ ] Started Multivitamin w/minerals 1x PO QD, at least two hours 
after alendronate.
[ ] Nectar thicken all liquids to avoid aspiration
[ ] Follow-up video swallow study
[ ] Follow-up recorded weights 3x/week
[ ] Consider mirtazapine to stimulate appetite and sleep 
concerns
[ ] Consider formal neurocognitive evaluation for formal 
dementia diagnosis
[ ] Please continue evaluating whether patient requires 
additional home services. ___ was set up for patient but upon 
discharge family decided that they did not need ___ despite 
recommendations and felt comfortable taking care of the patient 
at home. Emphasized need for close care, fall precautions, 
medication management, and observation with PO and nectar 
thickened liquids. Family verbalized understanding and declined 
___.

PCP: ___): ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QMON Osteopenia 
2. Allopurinol ___ mg PO DAILY 
3. Atenolol 50 mg PO BID 
4. amLODIPine 10 mg PO DAILY 
5. Calcium Carbonate 600 mg PO BID 
6. Pravastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
Please wait 2 hours after taking your Alendronate before taking 
this medication. 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Alendronate Sodium 70 mg PO QMON Osteopenia  
3.  Allopurinol ___ mg PO DAILY  
4.  amLODIPine 10 mg PO DAILY  
5.  Atenolol 50 mg PO BID  
6.  Calcium Carbonate 600 mg PO BID  
7.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Intraventricular hemorrhage not requiring surgery
Possible syncope
Subdural hematoma
Facial laceration

Secondary diagnoses:
HTN
Dementia
Osteopenia

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Oriented to self but baseline 
forgetfulness/disoriented to time and specific place.
Activity Status: Ambulatory - independent within the home, uses 
walker outside of the home.

 
Discharge Instructions:
Dear Ms. ___,

You were here as an inpatient at ___ 
___ from ___ after you fell at home. You were found to 
have a bleed in your brain that did not require surgery, and you 
were evaluated for a possible cause of your recent falls. We do 
not know the exact cause of your falls, but it was possible it 
was caused by dehydration. Please continue to drink plenty of 
water and eat regular meals to ensure good nutrition. Please 
record your weight three times per week to assess your 
nutritional status and follow up with your PCP. 

Your swallowing was assessed by our speech specialists. They are 
recommending a modified diet to make sure you swallow safely. 
You will have a more formal swallowing evaluation done on 
___. 

You were offered ___ services but felt that it wasn't needed. 
Please see below for specific instructions for your care after 
you go home. 

It was a pleasuring taking part in your care.

Sincerely,
Your ___ Inpatient Team

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication. 
Please avoid Aspirin or Ibuprofen for at least 1 month

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
•Headache is one of the most common symptom after a brain 
bleed. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___